US07795282B2
Step B: Preparation of 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide:
To a solution of N-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole-3-carbonothioyl)benzamide (0.737 g, 1.41 mmol) in 20 mL of anhydrous THF was added hydrazine (0.088 mL, 2.82 mmol). The reaction mixture was stirred at room temperature for 3 hours, and then concentrated in vacuo. The residue was purified by flash column chromatography (10-20% ethyl acetate/hexanes) to afford the desired product as a pale yellow foam, 0.504 g, 85%.

reactant | N-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole-3-carbonothioyl)benzamide | 1.41 mmol, 0.737 g | N(=[N+]=[N-])CCCC1(SC(=NN1C(=S)NC(C1=CC=CC=C1)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C25H20F2N6OS2
reactant | hydrazine | 2.82 mmol, 0.088 mL | NN | H4N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide | N(=[N+]=[N-])CCCC1(SC(=NN1C(N)=S)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C18H16F2N6S2
